US04409214
To a solution of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (4.6 g) in methylene chloride (20 ml) and anisole (3.0 g) was added trifluoroacetic acid (11.2 g) under ice-cooling with stirring, and the stirring was continued at ambient temperature for 1.5 hours. The reaction mixture was added dropwise to diisopropyl ether (300 ml) and the precipitated crystals were collected by filtration, followed by suspending in water (70 ml). After adjusting to pH 7.5 with 1 N aqueous sodium hydroxide, the resultant aqueous solution was washed with ethyl acetate. The aqueous solution was further adjusted to pH 3.4 with 10% hydrochloric acid, followed by collecting the precipitated crystals to obtain 7-[2-(2-aminothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.8 g).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylate | 4.6 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC1=NC=CC=C1 | C33H28N6O5S2
reactant | anisole | 3.0 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 11.2 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 300 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-pyridylmethoxyimino)acetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.8 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC1=NC=CC=C1 | C20H18N6O5S2
